US07157482B2
[(5R)-3-(4-Isoxazol-3-ylphenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl methanesulfonate (Intermediate 7,400 mg, 1.18 mmol), sodium azide (99 mg, 1.53 mmol), 18 crown-6 (23.6 mg, 0.089 mmol) and tetrabutylammonium iodide (28.2 mg, 0.076 mmol) were combined in DMF (5 ml) and heated to 60° C. for 4 hours. EtOAc (20 ml) was added and the organic layers were washed with brine (3×20 ml), dried over Na2SO4 and concentrated under vacuum to yield (5R)-5-(azidomethyl)-3-(4-isoxazol-3-ylphenyl)-1,3-oxazolidin-2-one. (5R)-5-(Azidomethyl)-3-(4-isoxazol-3-ylphenyl)-1,3-oxazolidin-2-one (300 mg, 1.045 mmol) was added to CH2Cl2:MeOH:THF:H2O 10:10:10:2 and then polystyrene triphenylphosphine resin (2650 mg, 4.18 mmol) was added. The reaction was allowed to stir overnight and then the resin was filtered and washed multiple times with dichloromethane and methanol. The filtrate was concentrated in vacuo and then dissolved in dichloromethane (10 ml) followed by addition of 2N HCl in ether (0.5 ml). The precipitate was collected and washed with ether (2×20 ml) and then dried under vacuum to yield the title product (300 mg).

reactant | [(5R)-3-(4-Isoxazol-3-ylphenyl)-2-oxo-1,3-oxazolidin-5-yl]methyl methanesulfonate | 1.18 mmol, 7,400 mg | CS(=O)(=O)OC[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)C1=NOC=C1 | C14H14N2O6S
reactant | sodium azide | 1.53 mmol, 99 mg | [N-]=[N+]=[N-].[Na+]
reactant | EtOAc | 20 ml | CCOC(=O)C | C4H8O2
catalyst | tetrabutylammonium iodide | 0.076 mmol, 28.2 mg | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (5R)-5-(azidomethyl)-3-(4-isoxazol-3-ylphenyl)-1,3-oxazolidin-2-one | N(=[N+]=[N-])C[C@H]1CN(C(O1)=O)C1=CC=C(C=C1)C1=NOC=C1 | C13H11N5O3
